Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.91907050063
[C:5]([H:6])(=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.4302769091799998
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:3]([C:2][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11])[H:4],-0.1731738257099999
[C:3](#[C:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.7256263123
[H:1][O:2][C:3]#[C:4]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-2.46272019252
[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.30522762088
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:7]([H:8])([H:9])[H:10].[H:6],3.9320631464
[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.11082426476
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16],-4.00349898362
[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-3.35095656603
[H:8].[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6][H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.02193632153
[C:2]([H:3])#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.66007488015
[O:1]=[C:2][C:9]([C:3][O:4][C:5]([H:6])([H:7])[H:8])([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]1([H:10])[H:11],-1.17690309419
[C:1]#[C:2][C:10]([C:7]([C:4]([O:3])([H:5])[H:6])([H:8])[H:9])([H:11])[H:12]>>[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-2.45123165445
[H:1]/[C:2](=[C:3](/[H:4])[C:6]([H:7])([H:8])[C:9]([H:5])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14],0.0292260236902
[H:12].[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.0211064396
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.92383119021
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.94573896371
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]=[C:12]([H:13])[H:14],1.66129193384
[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.878546344049
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[H:4],1.9079024864400005
[H:1][C:2]1[C:3](=[C:4]([H:5])[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:12]([C:7][C:8]([H:9])([H:10])[H:11])([H:13])[H:14],1.43134057652
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[O:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:11][H:12].[H:10],2.65253531071
[O:1]=[C:2]([C:3][C:4]([H:5])=[C:6][H:7])[O:8][H:9]>>[C:2](#[C:3][C:4]([H:5])=[C:6][H:7])[O:8][H:9].[O:1],3.85316693167
[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],-4.7043699093
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])[H:5],4.13479723149
[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.95245436054
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]1/[C:2](=[C:5](/[H:6])[C:8]([H:9])([H:10])[H:11])[C:3]1[H:4],2.8094388988700003
